US09326973B2
A solution of 5-(benzyloxy)-2-methoxytetrahydro-2H-pyran (317 mg, 1.426 mmol) in AcOH (10 mL) and water (5 mL) was heated at 55° C. for 12 h and then evaporated to dryness to afford 5-benzyloxyoxytetrahydropyran-2-ol (300 mg). 5-Benzyloxyoxytetrahydropyran-2-ol was dissolved in DCM (3 mL) and treated with DIPEA (0.374 mL, 2.139 mmol) and acetic anhydride (218 mg, 2.139 mmol). The mixture was stirred at rt for 4 h, quenched with sat. NaHCO3 and extracted with DCM. The organic phase was washed with water, brine, dried (MgSO4) and concentrated to yield 5-(benzyloxy)tetrahydro-2H-pyran-2-yl acetate as a clear oil (281 mg).

reactant | 5-Benzyloxyoxytetrahydropyran-2-ol | C(C1=CC=CC=C1)OOC1CCC(OC1)O | C12H16O4
reactant | DIPEA | 2.139 mmol, 0.374 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 2.139 mmol, 218 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(benzyloxy)tetrahydro-2H-pyran-2-yl acetate | 281 mg | C(C)(=O)OC1OCC(CC1)OCC1=CC=CC=C1 | C14H18O4
